US07145012B2
A mixture of 2-chloro-N-(4-chloro-phenyl)-benzamidine (I-5a), 25.1 g, 95 mmol) and NaHCO3 (84 g, 189 mmol) in 2-propanol (473 ml) was treated with 3-bromo-2-oxo-propionic acid ethyl ester (14.3 ml, 22 g, 113 mmol). The reaction mixture was heated at 80° C. for 17 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was diluted with CH2Cl2 and the organic solution was washed with H2O, dried over MgSO4, and concentrated in vacuo to provide the product, 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester I-5b, as a dark red residue (36 g).

reactant | 2-chloro-N-(4-chloro-phenyl)-benzamidine | ClC1=C(C(=N)NC2=CC=C(C=C2)Cl)C=CC=C1 | C13H10Cl2N2
reactant | NaHCO3 | 189 mmol, 84 g | C(=O)(O)[O-].[Na+]
reactant | 3-bromo-2-oxo-propionic acid ethyl ester | 113 mmol, 14.3 ml, 22 g | C(C)OC(C(CBr)=O)=O | C5H7BrO3
solvent | 2-propanol | 473 ml | CC(C)O | C3H8O
product | 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)O | C18H16Cl2N2O3
